* sg13g2-opamp -- PSRR bench, design/opamp_core.sch (issue #14)
* Generated from
* sim/cmrr-psrr/testbench/tb_psrr.spice.tmpl by
* sim/cmrr-psrr/run_cmrr_psrr_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep.
*
* Point: corner=mos_sf temp_c=125 vdd_v=1.20
* PDK: ihp-sg13g2 /Users/rwalters/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
* DUT netlist snapshot: /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-14/sim/cmrr-psrr/netlist-snapshots/20260921-151815-707b34c/opamp_core.spice (frozen copy of
*   design/netlist/opamp_core.spice alongside this generated testbench, so
*   the exact DUT netlist this point ran against is reviewable later)
*
* ------------------------------------------------------------------ method
* design/netlist/opamp_core.spice is a FLAT xschem netlist (its
* "**.subckt"/"**.ends" lines are full-line SPICE comments, not an active
* subcircuit wrapper -- verified directly against the generated file), so
* .include'ing it makes its own node names (vdd, vss, inn, inp, out, ibias,
* plus the internal d1/d2/tail nodes) live directly at this testbench's top
* level. No "X..." instantiation is needed or used.
*
* DC bias / AC loop-break: EXACTLY the open-loop-ac bench's self-biased
* topology (sim/open-loop-ac/testbench/tb_openloop_ac.spice.tmpl): an ideal
* inductor Lbreak = 1e18 H from inn to out, inp held at Vcm. See that
* template's header and sim/open-loop-ac/README.md "Choosing Lbreak" for
* the full reasoning, reused verbatim here. Keeping this DC network
* byte-equal to the open-loop bench's is load-bearing: the PSRR ratio this
* experiment reports divides the SAME grid point's Av0 out of
* sim/open-loop-ac/records/*.csv (never re-measured here), which is only
* meaningful if both benches measured at the same DC operating point.
*
* Supply (VDD) AC injection: Vdd carries dc VDD plus ac 1 V magnitude, so
* vdb(out) IS Avs(f) -- the supply-to-output gain -- in dB directly. The
* signal input is AC-grounded: Vinp (inp to ground, dc VCM) has no "ac"
* value, so in the .ac solve it contributes no perturbation and pins inp at
* AC zero -- the standard supply-rejection measurement configuration
* (input quiet, supply perturbed). inn's AC is ~zero by the same Lbreak
* argument as the differential bench (Lbreak = open at AC, only the gate
* remains). PSRR(f) = Av(f)/Avs(f) with Av(f) the open-loop differential
* gain of the SAME grid point from sim/open-loop-ac/records/*.csv (per
* issue #14's own wording); run_cmrr_psrr_sweep.sh computes
* PSRR_db = Av0_db - Avs0_db, with Avs0 = Avs(10 mHz) read from the flat
* low-frequency shelf (plateau guard re-verified per point by the
* runner). db() is a magnitude, so PSRR here is the conventional
* ratio-of-magnitudes Psrr+ number.
*
* Why this sweep starts at 10 mHz (one real finding, verified at the
* nominal point during dev-time prototyping): this DUT's vdd->out
* transfer carries a genuine zero near 1.5 Hz -- supply gain RISES ~4 dB
* from its DC shelf (35.5 dB at TT/27C/1.20V) to an in-band shelf near
* ~39.6 dB spanning roughly 100 Hz - 10 kHz, before the output pole
* rolls it off -- so a sweep starting at 1 Hz would read the DC supply
* gain 0.03 dB into the zero's skirt at best. Three checks establish the
* zero belongs to the DUT's supply path, not this harness: (a) raising
* Lbreak from 1e18 H to 1e21 H changes the response by <1e-4 dB at every
* swept frequency -- a loop-break artifact would move with L; (b) the d2
* and tail nodes' vdd responses carry the same low-frequency shape, so
* the zero lives in the first stage's supply path, ahead of the second
* stage; (c) a finite-difference DC sweep (vdd +-1 mV, vcm tracking
* vdd/2) reads the fully-closed-loop DC limit, ~-3.8 dB, consistent with
* the Lbreak-imposed f->0 suppression and clearly distinct from this
* shelf. The in-band consequence (PSRR+ degrades by ~4 dB between DC and
* the 100 Hz - 10 kHz shelf) is recorded per point in corners/*_psrr_ac.csv
* and summarized in README.md -- the scalar PSRR number this experiment
* reports is the DC shelf value, matching the classic-row convention that
* CMRR/PSRR are DC figures.
*
* Two scope notes, both following decisions this block already documents:
*   - ibias is an EXTERNAL ideal 10 uA current source (design/opamp_sizing.md
*     "Bias scope"); its ac value is zero, so supply ripple does not ride
*     into the bias reference. A part with an on-die bias generator would
*     fold that generator's supply sensitivity into its PSRR; this block
*     has no bias generator in scope, so this bench measures the amplifier
*     core's supply rejection under an ideal reference -- the same scope
*     the Iq rows draw (design/opamp_sizing.md "Iq reporting note").
*   - vss is ground in this bench (Vss vss 0, single-supply part: the
*     negative rail IS 0 V), so there is no distinct negative rail to
*     perturb; PSRR+ (VDD rejection) is the only supply rejection this
*     topology defines. Issue #14's own wording anticipated this ("and/or
*     VSS if the design has a distinct negative rail" -- it does not).
*
* Per-point DC sanity check (op landed near mid-rail, no internal node
* fully railed) is computed by run_cmrr_psrr_sweep.sh from this file's own
* echoed OP_* lines below -- see this experiment's README.md "Per-point
* sanity checks" for the exact pass/fail rule (same rule as
* sim/open-loop-ac/, same necessary-not-sufficient caveat: this OSDI/PSP103
* build exposes no queryable per-device operating-point parameters).

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib" cap_typ
.include "/Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-14/sim/cmrr-psrr/netlist-snapshots/20260921-151815-707b34c/opamp_core.spice"

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib" mos_sf

.options temp=125 tnom=27

Vdd vdd 0 dc 1.20 ac 1
Vss vss 0 dc 0
Iibias vdd ibias dc 10u
Vinp inp 0 dc 0.6
Lbreak inn out 1e18
Cload out vss 2e-12

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi

op
echo "OP_VOUT $&v(out)"
echo "OP_VD1 $&v(d1)"
echo "OP_VD2 $&v(d2)"
echo "OP_VTAIL $&v(tail)"
echo "OP_VIBIAS $&v(ibias)"
let ivdd_op = -i(vdd)
echo "OP_IVDD $&ivdd_op"

ac dec 20 10m 1g
let vout_db = db(v(out))
let vout_ph = cph(v(out)) * 180 / 3.14159265358979
wrdata /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-14/sim/cmrr-psrr/corners/20260921-151815-707b34c/mos_sf_125C_1.20V_psrr_ac.csv vout_db vout_ph
.endc
.end
